US05661159
To a suspension of 7-chloro-2-(5-acetoxybenzofuran-2-yl)quinoline (16.7 g) in methanol (400 ml), 1N aqueous sodium hydroxide (50 ml) was added at ambient temperature. The mixture was stirred for 1 day. After the solvent was removed under reduced pressure, the residue was suspended with water, and adjusted to pH 6-7 with diluted aqueous hydrochloric acid. After the resulting suspension was stirred at ambient temperature for 1 hour, the precipitates were collected by filtration, washed with water and dried in vacuo to give crude material (15 g). The crude material was dissolved in N,N-dimethylformamide (200 ml) at 80° C., and the resulting solution was allowed to stand at ambient temperature. The resulting crystals were filtered off and washed with N,N-dimethylformamide. The filtrate was poured into Water (500 ml). The resulting precipitates were collected by filtration, washed with water and dried in vacuo to give 7-chloro-2-(5-hydroxybenzofuran-2-yl)quinoline (12.1 g).

reactant | 7-chloro-2-(5-acetoxybenzofuran-2-yl)quinoline | 16.7 g | ClC1=CC=C2C=CC(=NC2=C1)C=1OC2=C(C1)C=C(C=C2)OC(C)=O | C19H12ClNO3
solvent | methanol | 400 ml | CO | CH4O
solvent | sodium hydroxide | 1N, 50 ml | [OH-].[Na+]
solvent | N,N-dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | 7-chloro-2-(5-hydroxybenzofuran-2-yl)quinoline | 12.1 g | ClC1=CC=C2C=CC(=NC2=C1)C=1OC2=C(C1)C=C(C=C2)O | C17H10ClNO2
